### PR TITLE
More decode sorries

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This should bring the Haskell in line with the abstract and C. It would be great if someone could closely check the Haskell to make sure it's OK, but given that the corres rules are working, I'm fairly sure it's fine

### CODE REVIEW

File: proof/refine/ARM/Tcb_R.thy [hunk 1]
```diff
@@ -3547,14 +3549,66 @@ lemma decode_set_space_corres:
...
+     apply wp+
+   apply fastforce+
+  done
+
+lemma decodeCVSpace_wf[wp]:
+  "\<lbrace>invs' and tcb_at' t and ex_nonz_cap_to' t and cte_at' slot
+      and (\<lambda>s. \<forall>x \<in> set extras. s \<turnstile>' fst x \<and> cte_at' (snd x) s \<and> t \<noteq> snd x \<and> t + 16 \<noteq> snd x)\<rbrace>
+     decodeCVSpace args (ThreadCap t) slot extras
+   \<lbrace>tcb_inv_wf'\<rbrace>,-"
+  apply (simp       add: decodeCVSpace_def Let_def split_def
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:3591]: nitpick: check indentation in this lemma. Seems a little odd, but maybe it's just a style that you prefer.

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -3475,23 +3475,25 @@ lemma cap_CNode_case_throw:
...
-         (invs and valid_cap cap and (\<lambda>s. \<forall>x \<in> set extras. cte_at (snd x) s))
-         (invs' and valid_cap' cap'  and (\<lambda>s. \<forall>x \<in> set extras'. cte_at' (snd x) s))
-      (decode_set_space args cap slot extras)
-      (decodeSetSpace args cap' (cte_map slot) extras')"
-  apply (simp    add: decode_set_space_def decodeSetSpace_def
+ "\<lbrakk>cap_relation cap cap';
+   list_all2 (\<lambda>(c, sl) (c', sl'). cap_relation c c' \<and> sl' = cte_map sl) extras extras';
+   is_thread_cap cap\<rbrakk> \<Longrightarrow>
+  corres (ser \<oplus> (\<lambda>abs_inv conc_inv. tcbinv_relation abs_inv conc_inv
+                                     \<and> Invocations_A.is_ThreadControlCaps abs_inv
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:3485]: nitpick: indentation

File: proof/refine/ARM/Tcb_R.thy [hunk 3]
```diff
@@ -3547,14 +3549,66 @@ lemma decode_set_space_corres:
...
+         (invs and valid_cap cap and (\<lambda>s. \<forall>x \<in> set extras. cte_at (snd x) s))
+         (invs' and valid_cap' cap' and (\<lambda>s. \<forall>x \<in> set extras'. cte_at' (snd x) s))
+      (decode_set_space args cap slot extras)
+      (decodeSetSpace args cap' (cte_map slot) extras')"
+  apply (simp add: decode_set_space_def decodeSetSpace_def check_handler_ep_def unlessE_whenE)
+  apply (cases "\<not> (2 \<le> length args \<and> 3 \<le> length extras')")
+   apply (clarsimp dest!: list_all2_lengthD split: list.split)
+   apply fastforce
+  apply (clarsimp simp: val_le_length_Cons list_all2_Cons2
+              split del: if_split)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:3568]: nitpick: indentation

File: proof/refine/ARM/Tcb_R.thy [hunk 4]
```diff
@@ -3569,9 +3623,20 @@ lemma decodeSetSpace_wf[wp]:
   apply (simp del: length_greater_0_conv add: valid_updateCapDataI)
   done
 
+lemma decodeCVpace_inv[wp]:
+  "\<lbrace>P\<rbrace> decodeCVSpace args cap slot extras \<lbrace>\<lambda>rv. P\<rbrace>"
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:3627]: Nitpick: use `my_function {P}` notation.
Also, can this be done with crunch?

**Review by MitchellBuckley — APPROVED** [review]
Very nice! I trust you on the Haskell spec.

File: proof/refine/ARM/Tcb_R.thy [hunk 5]
```diff
@@ -3547,14 +3549,66 @@ lemma decode_set_space_corres:
...
+         apply (clarsimp simp: returnOk_def newroot_rel_def is_cap_simps list_all2_conv_all_nth)
+        apply blast
+       apply fastforce+
+     apply wp+
+   apply fastforce+
+  done
+
+lemma decodeCVSpace_wf[wp]:
+  "\<lbrace>invs' and tcb_at' t and ex_nonz_cap_to' t and cte_at' slot
+      and (\<lambda>s. \<forall>x \<in> set extras. s \<turnstile>' fst x \<and> cte_at' (snd x) s \<and> t \<noteq> snd x \<and> t + 16 \<noteq> snd x)\<rbrace>
```
Comment (mktnk3) [inline proof/refine/ARM/Tcb_R.thy:3588]: I am just wondering if we can replace `16` with something more abstract. I can see `16` also in `decodeSetSpace_wf` below, which is an existing lemma, and this number is different (32) for X64 and RISCV. My guess is this is `2^slot_bits` but can someone maybe confirm/check, please?

**Review by mktnk3 — APPROVED** [review]
Thanks for looking into this. I am glad that everything worked out nicely.

I thought I had reviewed this long time ago, but apparently I forgot to press submit...

File: proof/refine/ARM/Tcb_R.thy [hunk 6]
```diff
@@ -3614,42 +3713,54 @@ lemma decodeSetSpace_tc_slot[wp]:
   apply simp
   done
 
-lemma decode_tcb_conf_corres:
+lemma decodeTCBConfigure_corres:
```
Comment (mktnk3) [inline proof/refine/ARM/Tcb_R.thy:3716]: We probably want to defer updating the names of existing lemmas (those that are also in master) for now, just to save the extra work it might generate while merging. We’ll clean them up altogether at some point.

But we can be consistent and proper when we name the rules for the functions we are adding newly for MCS.

File: proof/refine/ARM/Tcb_R.thy (hunk 5 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Tcb_R.thy:3588]: If I can generalise this, do I also update `decodeSetSpace_wf`, or is that bad for the merge?

File: proof/refine/ARM/Tcb_R.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Tcb_R.thy:3716]: Well, the merge is going to be horrific anyway, right? My vote is to change whatever we like now and deal with an ever so slightly worse merge later. I've found the cost of not following the conventions is actually quite high; if you think there should be a lemma called `some_lemma`, but it's actually called `some_Lemma_haha` then it's quite annoying

File: spec/haskell/src/SEL4/Object/TCB.lhs [hunk 7]
```diff
@@ -341,17 +341,31 @@ This is to ensure that the source capability is not made invalid by the deletion
...
+>         tcCapsFaultHandler = Nothing,
+>         tcCapsTimeoutHandler = Nothing,
+>         tcCapsCRoot = Just cRoot,
+>         tcCapsVRoot = Just vRoot,
+>         tcCapsBuffer = Nothing }
+> decodeCVSpace _ _ _ _ = throw TruncatedMessage
+
+> decodeSetSpace :: [Word] -> Capability -> PPtr CTE ->
+>         [(Capability, PPtr CTE)] -> KernelF SyscallError TCBInvocation
+> decodeSetSpace (cRootData:vRootData:_) cap slot (cRootArg:vRootArg:fhArg:_) = do
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/TCB.lhs:356]: The C code has the `fhArg` in the original first extra cap slot. I can see a pretty strong argument for why this order is preferred, so that it's more consistent with the non MCS code, but is there a corresponding change being made to the C?

File: proof/refine/ARM/Tcb_R.thy [hunk 8]
```diff
@@ -3475,23 +3475,25 @@ lemma cap_CNode_case_throw:
...
-         (invs' and valid_cap' cap'  and (\<lambda>s. \<forall>x \<in> set extras'. cte_at' (snd x) s))
-      (decode_set_space args cap slot extras)
-      (decodeSetSpace args cap' (cte_map slot) extras')"
-  apply (simp    add: decode_set_space_def decodeSetSpace_def
+ "\<lbrakk>cap_relation cap cap';
+   list_all2 (\<lambda>(c, sl) (c', sl'). cap_relation c c' \<and> sl' = cte_map sl) extras extras';
+   is_thread_cap cap\<rbrakk> \<Longrightarrow>
+  corres (ser \<oplus> (\<lambda>abs_inv conc_inv. tcbinv_relation abs_inv conc_inv
+                                     \<and> Invocations_A.is_ThreadControlCaps abs_inv
+                                     \<and> is_ThreadControlCaps conc_inv))
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:3486]: I might be wrong, but I think it's a bit unusual to have these sort of conditions in the return relation of a corres statement. Would it be possible to prove them as post conditions of a separate hoare triple?
This is pretty minor, so I'm fine with leaving it as is if having them here is more useful.

**Review by corlewis — APPROVED** [review]
Awesome work as always! Apart from my one comment about the corresponding C code, the Haskell looks good to me.

File: spec/haskell/src/SEL4/Object/TCB.lhs (hunk 7 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/TCB.lhs:356]: Ah, good catch. I suppose for this part, I was happily following along with `decode_set_space` in the abstract. But I think that's wrong. So I'll change both

Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/TCB.lhs]: That is a good catch. Thanks Corey. I can see that C has the FH first, not sure how abstract came to have that order.

File: proof/refine/ARM/Tcb_R.thy (hunk 5 above)
Comment (VictorPhan) [reply proof/refine/ARM/Tcb_R.thy:3975]: Tracking this issue here: [VER-1385](https://sel4.atlassian.net/browse/VER-1385)

File: proof/refine/ARM/Tcb_R.thy (hunk 6 above)
Comment (VictorPhan) [reply proof/refine/ARM/Tcb_R.thy:4103]: Tracking issue: [VER-1386](https://sel4.atlassian.net/browse/VER-1386)

**Review by VictorPhan — APPROVED** [review]
